US07504508B2
3-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}benzoic acid was prepared following general procedure H, substituting methyl 3-(chlorocarbonyl)benzoate for 6-trifluoromethyl nicotinyl chloride. (Methyl 3-(chlorocarbonyl)benzoate was prepared in one step from 3-(methoxycarbonyl)benzoic acid. Treatment of this carboxylic acid with oxalyl chloride and catalytic DMF afforded methyl 3-(chlorocarbonyl)benzoate in decent yield). Hydrolysis of methyl 3-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}benzoate with lithium hydroxide, water, methanol and tetrahydrofuran yielded 3-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}benzoic acid.

reactant | methyl 3-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}benzoate | C(C)(=O)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C=1C=C(C(=O)OC)C=CC1)C)C1=CC=C(C=C1)Cl | C27H25ClN2O4
reactant | lithium hydroxide | [OH-].[Li+]
reactant | water | O | H2O
reactant | methanol | CO | CH4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}benzoic acid | C(C)(=O)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C=1C=C(C(=O)O)C=CC1)C)C1=CC=C(C=C1)Cl | C26H23ClN2O4
